US09260418B2
To a solution of methyl 1-amino-4-bromo-2-naphthoate hydrobromide (1.94 g, 5.37 mmol) in 10 mL of THF at 0° C. under an atmosphere of nitrogen was added (2-chloro-5-pyridyl)methylzinc chloride (41.6 mL, 0.5 M in THF, 83.2 mmol) and bis(tri-tert-butylphosphine)palladium(0) (0.177 g, 0.346 mmol). The reaction was warmed to rt, and after 16 h, treated with water (10 mL). The mixture was diluted dichloromethane and water, and a beige solid was removed via filtration. The filtrate was extracted 2× with dichloromethane and the combined organic fractions were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-20% ethyl acetate in hexanes provide methyl 1-amino-4-(4-chlorobenzyl)-2-naphthoate that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 326.1 for [M+H]+.

reactant | methyl 1-amino-4-bromo-2-naphthoate hydrobromide | 5.37 mmol, 1.94 g | Br.NC1=C(C=C(C2=CC=CC=C12)Br)C(=O)OC
reactant | (2-chloro-5-pyridyl)methylzinc chloride | 83.2 mmol, 0.5 M, 41.6 mL | [Cl-].ClC1=NC=C(C=C1)C[Zn+]
reactant | water | 10 mL | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.346 mmol, 0.177 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | methyl 1-amino-4-(4-chlorobenzyl)-2-naphthoate | NC1=C(C=C(C2=CC=CC=C12)CC1=CC=C(C=C1)Cl)C(=O)OC | C19H16ClNO2
